US05387600
To 108 g of o-phenylenediamine, 1 l of 4N hydrochloric acid and 142 g of chloroacetic acid were added and refluxed for 1.5 hours. After allowing to stand overnight, the solution was diluted with 2 l of water and neutralized with dilute ammonia water. The formed crystals were filtered off to obtain 113 g of 2-chlorom ethylbenzimidazole.

reactant | o-phenylenediamine | 108 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | hydrochloric acid | 4N, 1 l | Cl | ClH
reactant | chloroacetic acid | 142 g | ClCC(=O)O | C2H3ClO2
solvent | water | 2 l | O | H2O
solvent | ammonia water | O.N
product | 2-chlorom ethylbenzimidazole | 113 g | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
